US07550490B2
Preparation of N-(2-amino-4-fluorophenyl)-4-[N-(Pyridin-3-ylacryloyl)aminomethyl]benzamide
To a suspension of 0.29 g (1.78 mmol) of N,N′-carbonyldiimidazole in tetrahydrofuran (15 ml) is added 0.50 g (1.78 mmol) of 4-[(Pyridin-3-ylacryloyl)aminomethyl]benzoic acid, followed by stirring at 45° C. for 1 hour. After cooling, the reaction mixture is added to a separately prepared tetrahydrofuran (10 ml) solution including 0.28 g (2.22 mmol) of 4-fluoro-1,2-phenylenediamine and 0.20 g (1.78 mmol) of trifluoroacetic acid at room temperature. After reaction at room temperature for 24 hours, the deposited white solid is collected by filtration, washed with tetrahydro ran, and then dried to give the title compound (0.40 g, 57%). 1H NMR (300 MHz, DMSO-d6): δ ppm: 4.49 (2H, d), 4.84 (2H, br.s), 6.60 (1H, t), 6.80 (2H, m), 6.96 (1H, t), 7.18 (1H, d), 7.42 (2H, d), 7.52 (1H, d), 7.95 (2H, d), 8.02 (1H, d), 8.56 (1H, d), 8.72 (1H, br.t), 8.78 (1H, s), 9.60 (1H, br.s), IR (KBr) cm−1: 3310, 1655, 1631, 1524, 1305, 750. HRMS calcd for C22H19N4O2F: 390.4170. Found: 390.4172. MA calcd for C22H19N4O2F: C, 67.88%; H, 4.40%; N, 14.35%. Found: C, 67.52%; H, 4.38%; N, 14.42%.

reactant | 4-[(Pyridin-3-ylacryloyl)aminomethyl]benzoic acid | 1.78 mmol, 0.50 g | N1=CC(=CC=C1)C=CC(=O)NCC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
reactant | 4-fluoro-1,2-phenylenediamine | 2.22 mmol, 0.28 g | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | trifluoroacetic acid | 1.78 mmol, 0.20 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(2-amino-4-fluorophenyl)-4-[N-(Pyridin-3-ylacryloyl)aminomethyl]benzamide | 0.40 g, 57% | NC1=C(C=CC(=C1)F)NC(C1=CC=C(C=C1)CNC(C=CC=1C=NC=CC1)=O)=O | C22H19FN4O2
